US06380218B1
2-[4-(1-Hydroxy-1-methyl-ethyl)-phenyl]-N-[2-(pyridin-3-yloxy)-pyridin-3-yl]-acetamide
To a solution of 2-(4-Acetyl-phenyl)-N-[2-(pyridin-3-yloxy)-pyridin-3-yl]-acetamide (0.130 grams, 0.374 mmole) in tetrahydrofuran (10 ml) at −78° C. 1.0 M methyl lithium in tetrahydrofuran (1.123 ml, 1.123 mmole) was added and stirred at −78° C. for 30 minutes, allowed to warm to room temperature for 30 minutes and cooled to −78° C. The mixture was quenched with water and extracted with ethyl acetate. The combined organics were washed with water and brine, dried over MgSO4, filtered and concentrated to a product which was purified by chromatography on silica eluting with 3% methanol/methylene chloride. Recrystalization from ethyl acetate/hexane gave a solid (0.045 g). M.P. 122-124° C.; Anal. calcd. for C21H21N3O3: C, 69.41; H, 5.82; N, 11.50. Found: C, 69.02; H, 6.12; N, 11.30.

reactant | 2-(4-Acetyl-phenyl)-N-[2-(pyridin-3-yloxy)-pyridin-3-yl]-acetamide | 0.374 mmole, 0.130 grams | C(C)(=O)C1=CC=C(C=C1)CC(=O)NC=1C(=NC=CC1)OC=1C=NC=CC1 | C20H17N3O3
reactant | methyl lithium | 1.0 M | C[Li]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.123 mmole, 1.123 ml | O1CCCC1 | C4H8O
product | 2-[4-(1-Hydroxy-1-methyl-ethyl)-phenyl]-N-[2-(pyridin-3-yloxy)-pyridin-3-yl]-acetamide | 0.045 g | OC(C)(C)C1=CC=C(C=C1)CC(=O)NC=1C(=NC=CC1)OC=1C=NC=CC1 | C21H21N3O3
